Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Iodine-Iodine Containing
 
Attending: ___.
 
Chief Complaint:
bright red blood per rectum
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mrs. ___ is a ___ w/ h/o stage III splenic flexure colon 
cancer s/p resection with colonic anastamosis, HTN, DMII, CAD 
who presents with one episode of bright red blood per rectum 
this morning. She never has constipation, but some loose stools 
since her surgery over a decade ago. Today, she had a normal BM 
for her, and had some blood on top of the BM, small amount, also 
some red blood on toilet paper. She states she had some mild 
left sided abdominal pain that came and went with belching, so 
she thought it was gas pain.  
She saw her primary care physician today who noticed a small 
amount of bright red blood in the rectal vault, she was 
subsequently sent in to us for evaluation. PCP exam ___ few hours 
ago with anoscopy demonstrated hemorrhoid and stool with small 
amount of blood in vault.  
In the ED intial vitals were: 98.1 58 155/80 18 98% RA  
- Labs were significant for normal coags, normal CBC, normal 
LFTs, normal coags.  
UA shows few bacteria and 2 epithelial cells, otherwise normal.  

- Urine and blood cultures were sent.  
Vitals prior to transfer were: 98.4 68 121/65 17 97% RA  
On the floor, vitals are 98.4 158/86 84 18 100%RA. She is in 
good spirits, in no distress, in no pain and has had no more red 
blood since earlier today.  

 
Past Medical History:
-COLON CANCER  
-DIABETES TYPE II  
-HYPERCHOLESTEROLEMIA  
-LACTOSE INTOLERANCE  
-STROKE  
-INFERIOR MYOCARDIAL INFARCTION  
-HYPERTENSION  
-HYPERLIPIDEMIA  
-DIZZINESS  

 
Social History:
___
Family History:
Mother had stroke in her ___ or ___.  Her paternal 
grandfather,
father, and brother all had colon cancer.  Sister had ovarian
cancer and has prostate cancer in her family.

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
Vitals - 98.4 158/86 84 18 100%RA  
GENERAL: NAD  
HEENT: PERRL, pink conjunctiva, MMM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

DISCHARGE PHYSICAL EXAM:
VS: 99.1 ___ 58-64 18 99/RA
GENERAL: NAD  
HEENT: PERRL, pink conjunctiva, MMM  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: CTAB, no wheezes, rales, rhonchi, breathing comfortably 
without use of accessory muscles  
ABDOMEN: nondistended, +BS, nontender in all quadrants, no 
rebound/guarding, no hepatosplenomegaly  
EXTREMITIES: moving all extremities well, no cyanosis, clubbing 
or edema  
PULSES: 2+ DP pulses bilaterally  
NEURO: CN II-XII intact  
SKIN: warm and well perfused, no excoriations or lesions, no 
rashes  

 
Pertinent Results:
ADMISSION LABS:
___ 05:51PM BLOOD ___ PTT-31.3 ___
___ 05:30PM BLOOD Glucose-101* UreaN-10 Creat-1.0 Na-142 
K-3.7 Cl-107 HCO3-26 AnGap-13
___ 05:30PM BLOOD ALT-34 AST-24 AlkPhos-106* TotBili-0.3
___ 05:30PM BLOOD Albumin-4.0
___ 06:20PM BLOOD Lactate-1.3
___ 05:49PM BLOOD Hgb-14.7 calcHCT-44

DISCHARGE LABS:
___ 08:00AM BLOOD WBC-8.1 RBC-4.75 Hgb-13.6 Hct-40.7 MCV-86 
MCH-28.6 MCHC-33.4 RDW-13.6 Plt ___
___ 08:00AM BLOOD Glucose-122* UreaN-8 Creat-0.9 Na-144 
K-3.7 Cl-109* HCO3-24 AnGap-15

URINE:
___ 06:05PM URINE Color-Yellow Appear-Clear Sp ___
___ 06:05PM URINE RBC-1 WBC-1 Bacteri-FEW Yeast-NONE Epi-2
___ 06:05PM URINE Mucous-RARE
___ 6:05 pm URINE      ___. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___: 
      MIXED BACTERIAL FLORA ( >= 3 COLONY TYPES), CONSISTENT 
WITH SKIN
      AND/OR GENITAL CONTAMINATION. 

EKG ___: Sinus bradycardia. Borderline left atrial 
abnormality. Right bundle-branch block. Left axis deviation. 
Left anterior fascicular block. Diffuse non-specific 
repolarization abnormalities. Compared to the previous tracing  
of ___ complete right bundle-branch block is now present. 

EKG ___:
Sinus bradycardia. Non-specific intraventricular conduction 
delay. Left axis deviation. Left anterior fascicular block. 
Compared to the previous tracing right bundle-branch block is no 
longer present. 

 
Brief Hospital Course:
PRIMARY REASON FOR ADMISSION:
Mrs. ___ is a ___ h/o stage III splenic flexure colon 
cancer s/p resection, DMII, CAD, HTN who presents from clinic 
with one episode of bright red blood per rectum this morning.  

ACTIVE ISSUES:
 
# Rectal Bleeding: Patient with mild abdominal pain earlier 
today with small amount of blood in stool and on toilet paper. 
It is likely that her abdominal pain could have been gas pain 
given the mild intermittent crampy nature that resolved with 
passing gas. Hemodynamically she was stable, Hct was normal and 
she had no further bleeding. Given she does have hemorrhoids, it 
is most likely that this is the cause of her bleeding, but given 
her history of colorectal cancer, she should have expedited 
outpatient colonoscopy.  She will also be discharged with 
simethicone.

# Abdominal pain/chest pain: Seemed most consistent with gas 
pain given her description and improvement with belching and 
passing flatus. EKG was without evidence of new ischemia. 

# Benign Hypertension: Stable from her baseline. Prescribed 
lisinopril but does not take.

# CAD: On aspirin, statin. 

# Hyperlipidemia: continue rosuvastatin  

TRANSITIONAL ISSUES:
- She should have an outpatient colonoscopy
- She may benefit from hemorrhoidal banding (was refered to ___ 
clinic)

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. Lisinopril 10 mg PO DAILY 
2. Oxybutynin 5 mg PO DAILY 
3. Rosuvastatin Calcium 10 mg PO DAILY 
4. Aspirin 81 mg PO DAILY 
5. Multivitamins 1 TAB PO DAILY 
6. Calcium Carbonate 500 mg PO TID:PRN . 
7. FoLIC Acid 1 mg PO DAILY 
8. Fish Oil (Omega 3) 1000 mg PO BID 
9. Nicotine Lozenge 2 mg PO Q8H:PRN smoking cessation 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Multivitamins 1 TAB PO DAILY 
3. Oxybutynin 5 mg PO DAILY 
4. Calcium Carbonate 500 mg PO TID:PRN .     
5. Nicotine Lozenge 2 mg PO Q8H:PRN smoking cessation 
6. Rosuvastatin Calcium 10 mg PO DAILY 
7. Fish Oil (Omega 3) 1000 mg PO BID 
8. FoLIC Acid 1 mg PO DAILY 
9. Lisinopril 10 mg PO DAILY 
10. Simethicone 80 mg PO QID:PRN gas 
RX *simethicone 80 mg 1 tablet by mouth four times a day Disp 
#*30 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Bright red blood per rectum

Secondary Diagnoses
-HTN
-Chronic Dizziness

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,
It was our pleasure participating in your care here at ___. 
You were admitted here on ___ after having some bright red 
blood with your bowel movements. Fortunately, your blood counts 
remained stable. It will be very important that you have a 
colonoscopy as an outpatient.

Please call ___ to schedule your colonoscopy. Please 
try to schedule this before your ___ appointments.

If you should have more abdominal pain, chest pain, bleeding or 
any other concerning symptom, please let your doctor know.  

Again, it was our pleasure participating in your care.

We wish you the best!
-- Your ___ Medicine Team --
 
Followup Instructions:
___